US04764624
27.2 g (0.10 mol) of ethyl 1-(2,6-diethylphenyl)-imidazole-5-carboxylate were added dropwise, in the course of 1 hour at -70° to -78° C., to a solution of 12.2 g (0.12 mol) of diisopropylamine and 80 ml (0.13 mol) of 15% strength butyllithium solution in hexane in 100 ml of absolute tetrahydrofuran. Stirring was continued for 10 minutes, and a solution of 32.0 g (0.13 mol) of dibenzyl disulfide in 50 ml of tetrahydrofuran was then added dropwise. The mixture was allowed to warm up to room temperature, 10 ml of saturated ammonium chloride solution were added dropwise, and the reaction mixture was poured onto 500 ml of water and extracted twice with toluene. After evaporation and chromatography (silica gel, mobile phase 8:2 petroleum ether (low)/ethyl acetate), 33.5 g (85% of theory) of ethyl 2-benzylthio-1-(2,6-diethylphenyl)-imidazole-5-carboxylate were obtained as a colorless oil.

reactant | ethyl 1-(2,6-diethylphenyl)-imidazole-5-carboxylate | 0.10 mol, 27.2 g | C(C)C1=C(C(=CC=C1)CC)N1C=NC=C1C(=O)OCC | C16H20N2O2
reactant | diisopropylamine | 0.12 mol, 12.2 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | dibenzyl disulfide | 0.13 mol, 32.0 g | C(C1=CC=CC=C1)SSCC1=CC=CC=C1 | C14H14S2
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | ethyl 2-benzylthio-1-(2,6-diethylphenyl)-imidazole-5-carboxylate | 33.5 g, 85% | C(C1=CC=CC=C1)SC=1N(C(=CN1)C(=O)OCC)C1=C(C=CC=C1CC)CC | C23H26N2O2S
